US05571792
Step 1: N-BOC-N-[2-(phenylmethoxy)ethyl]glycinamide
To a solution of BOC-glycine (0.47 g, 2.69 mmol) in EtOAc (10 mL) was added HOBT hydrate (0.49 g, 3.22 mmol) followed by DCC (0.66 g, 3.22 mmol). After 30 minutes, a solution of benzyloxyethylamine (0.41 g, 2.69 mmol) in EtOAc (5 mL) was added and the mixture was stirred overnight at room temperature. The mixture was filtered, and the filtrate was diluted with EtOAc, washed with saturated aqueous NaHCO3, brine, dried over MgSO4, and concentrated. Flash chromatography (EtOAc) gave 0.72 g (87%) of the title compound as a light yellow oil which slowly solidified; CI-MS 309 (m+1).

reactant | BOC-glycine | 2.69 mmol, 0.47 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | HOBT hydrate | 3.22 mmol, 0.49 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | DCC | 3.22 mmol, 0.66 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | benzyloxyethylamine | 2.69 mmol, 0.41 g | C(C1=CC=CC=C1)OCCN | C9H13NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | N-BOC-N-[2-(phenylmethoxy)ethyl]glycinamide | 0.72 g, 87% | C(=O)(OC(C)(C)C)N(C(CN)=O)CCOCC1=CC=CC=C1 | C16H24N2O4
